US05093328
To a solution of (2S,4R)-1-benzyloxycarbonyl-2-iodomethyl-4-t-butyldimethylsilyloxypyrrolidine (110 g) in dry dimethylformamide (300 ml), sodium cyanide (10.29 g) was added, and the resultant mixture was stirred at room temperature for 24 hours. The reaction mixture was diluted with ethyl acetate, washed with aqueous sodium hypochlorite solution and aqueous sodium chloride solution in order and dried over magnesium sulfate. After removal of the solvent, the residue was purified by silica gel column chromatography to give (2R,4R)-1-benzyloxycarbonyl-2-cyanomethyl-4-t-butyldimethylsilyloxypyrrolidine.

reactant | (2S,4R)-1-benzyloxycarbonyl-2-iodomethyl-4-t-butyldimethylsilyloxypyrrolidine | 110 g | C(C1=CC=CC=C1)OC(=O)N1[C@@H](C[C@H](C1)O[Si](C)(C)C(C)(C)C)CI | C19H30INO3Si
reactant | sodium cyanide | 10.29 g | [C-]#N.[Na+]
solvent | dimethylformamide | 300 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (2R,4R)-1-benzyloxycarbonyl-2-cyanomethyl-4-t-butyldimethylsilyloxypyrrolidine | C(C1=CC=CC=C1)OC(=O)N1[C@@H](C[C@H](C1)O[Si](C)(C)C(C)(C)C)CC#N | C20H30N2O3Si
